US04552765
3-(Benzyloxycarbonylamino)-N-[2-[diethylamino(thiocarbonyl)-thio]ethyl]propionamide
To the solution of 3-(benzyloxycarbonylamino)-N-(2-bromoethyl)propionamide (10 g) in acetone (250 ml), sodium diethyldithiocarbamate trihydrate (6.8 g) in acetone (150 ml) is added and the mixture is stirred for 40 minutes at room temperature. The reaction mixture is filterd and the filtrate is concentrated in vacuo. The residue is dissolved in ethyl acetate (150 ml) and the solution is washed with N hydrochloric acid, N sodium hydroxide, water and saturated sodium chloride solution in the named order. The ethyl acetate solution is dried over anhydrous magnesium sulfate and concentrated in vacuo to give 10.7 g (89%) of the titled compound.

reactant | 3-(benzyloxycarbonylamino)-N-(2-bromoethyl)propionamide | 10 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)NCCBr | C13H17BrN2O3
reactant | sodium diethyldithiocarbamate trihydrate | 6.8 g | O.O.O.C(C)N(C([S-])=S)CC.[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-(Benzyloxycarbonylamino)-N-[2-[diethylamino(thiocarbonyl)-thio]ethyl]propionamide | 10.7 g, 89% | C(C1=CC=CC=C1)OC(=O)NCCC(=O)NCCSC(=S)N(CC)CC | C18H27N3O3S2
